US07517899B2
tert-Butyl (2S)-2-[(E)-2-(3-fluorophenyl)vinyl]pyrrolidine-1-carboxylate (400 mg, 1.37 mmol) was dissolved in dichloromethane (50 mL). A saturated aqueous solution of sodium bicarbonate (50 mL) was added, followed by acetone (10 mL) and tetrabutylammonium hydrogen sulfate (46 mg, 0.14 mmol). With vigorous stirring Oxone (8.4 g, 13.7 mmol) was added over 2 hours in 8 portions (1.05 g every 15 minutes). The mixture was stirred an additional 16 hours then diluted with dichloromethane. The organic layer was separated and washed with water, and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, 20% ethyl acetate/hexane) to give 240 mg that was immediately combined with indoline (0.14 g, 1.2 mmol) and heated to 90° C. for 16 hours. The mixture was cooled and the crude orange oil was purified by Isco chromatography (Redisep, silica, gradient 0% to 25% ethyl acetate in hexane) to give 130 mg that was immediately dissolved in dichloromethane (20 mL). Manganese dioxide (0.86 g, 10 mmol) was added and the mixture was stirred for 5 hours then diluted with dichloromethane and filtered through a pad of Celite and concentrated. The crude product was purified by Isco chromatography (Redisep, silica, gradient 0% to 50% ethyl acetate in hexane) to give 50 mg of (R)-2-[2-(S)-(3-fluoro-phenyl)-1-hydroxy-2-indol-1-yl-ethyl]-(S)-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | tert-Butyl (2S)-2-[(E)-2-(3-fluorophenyl)vinyl]pyrrolidine-1-carboxylate | 1.37 mmol, 400 mg | FC=1C=C(C=CC1)/C=C/[C@H]1N(CCC1)C(=O)OC(C)(C)C | C17H22FNO2
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
reactant | Oxone | 13.7 mmol, 8.4 g | OOS(=O)[O-].[K+]
reactant | indoline | 1.2 mmol, 0.14 g | N1CCC2=CC=CC=C12 | C8H9N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | tetrabutylammonium hydrogen sulfate | 0.14 mmol, 46 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | Manganese dioxide | 10 mmol, 0.86 g | [O-2].[O-2].[Mn+4]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (R)-2-[2-(S)-(3-fluoro-phenyl)-1-hydroxy-2-indol-1-yl-ethyl]-(S)-pyrrolidine-1-carboxylic acid tert-butyl ester | 50 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)[C@H]([C@@H](N1C=CC2=CC=CC=C12)C1=CC(=CC=C1)F)O | C25H29FN2O3
